US05510368
Step 1: N-(4-Bromobenzyl)-N-(4-bromophenyl)hydrazine
4-Bromophenylhydrazine hydrochloride (30 g, 134 mmol), p-bromobenzyl bromide (40 g, 161 mmol), disopropylethylamine (43 g, 335 mmol) and tetrabutylammonium bromide (13 g, 40 mmol) were stirred together in 400 mL of CH2Cl2 at r.t. overnight. The mixture was then washed with H2O, dried over MgSO4 and the title product was purified by flash chromatography on silica using EtOAc:hexane (30:70) and by a swish in hexanes. Yield 34 g (71%).

reactant | 4-Bromophenylhydrazine hydrochloride | 134 mmol, 30 g | Cl.BrC1=CC=C(C=C1)NN
reactant | p-bromobenzyl bromide | 161 mmol, 40 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
catalyst | tetrabutylammonium bromide | 40 mmol, 13 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Bromobenzyl)-N-(4-bromophenyl)hydrazine | BrC1=CC=C(CN(N)C2=CC=C(C=C2)Br)C=C1 | C13H12Br2N2
